US04508658
α-Cyano-phenylacetic acid pentafluorophenyl ester
8 g. (0.05 moles) of α-cyano-phenylacetic acid are dissolved in dichloromethane. Under mild heating 10.3 g. (0.05 moles) of dicyclohexylcarbodiimide and 0.2 g. (0.05 moles) of pentafluorophenol dissolved in 50 ml. of dichloromethane are added dropwise. The mixture is stirred for 4 hours at 30° to 35° C. It is cooled, and the precipitated dicyclohexylurea is filtered. The substance on the filter is washed twice with 10 ml. of dichloromethane. The combined organic layers are evaporated while petrolether is added. The crystalline ester is precipitated from petrolether.

reactant | α-cyano-phenylacetic acid | 0.05 moles | C(#N)C(C(=O)O)C1=CC=CC=C1 | C9H7NO2
reactant | dicyclohexylcarbodiimide | 0.05 moles | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | pentafluorophenol | 0.05 moles | FC1=C(C(=C(C(=C1O)F)F)F)F | C6HF5O
solvent | dichloromethane | ClCCl | CH2Cl2
product | α-Cyano-phenylacetic acid pentafluorophenyl ester | FC1=C(C(=C(C(=C1OC(C(C#N)C1=CC=CC=C1)=O)F)F)F)F | C15H6F5NO2
